US05962682
1.12 g of methyl 3-amino-4-(2-chloro-5-methoxy-phenoxy)-5-[2-(tetrahydro-pyran-2-yloxy)-ethoxy]-benzoate were dissolved in a mixture of toluene/pyridine (20 ml/30 ml) treated dropwise while cooling with ice with a solution of 1.05 g of 5-isopropylpyridine-2-sulphonyl chloride in toluene (30 ml) and subsequently stirred at room temperature for 24 hours. The reaction mixture was poured on to ice/3M HCl, the product was extracted with ethyl acetate and the organic phase was washed with water and dried over magnesium sulphate. After removing the solvent there was obtained the desired methyl 4-(2-chloro-5-methoxy-phenoxy)-3-(5-isopropyl-pyridine-2-sulphonylamino)-5-[2-(tetrahydro-pyran-2-yloxy)-ethoxy]-benzoate as a yellow solid.

reactant | methyl 3-amino-4-(2-chloro-5-methoxy-phenoxy)-5-[2-(tetrahydro-pyran-2-yloxy)-ethoxy]-benzoate | 1.12 g | NC=1C=C(C(=O)OC)C=C(C1OC1=C(C=CC(=C1)OC)Cl)OCCOC1OCCCC1 | C22H26ClNO7
reactant | 5-isopropylpyridine-2-sulphonyl chloride | 1.05 g | C(C)(C)C=1C=CC(=NC1)S(=O)(=O)Cl | C8H10ClNO2S
solvent | toluene pyridine | 20 ml | C1(=CC=CC=C1)C.N1=CC=CC=C1
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | methyl 4-(2-chloro-5-methoxy-phenoxy)-3-(5-isopropyl-pyridine-2-sulphonylamino)-5-[2-(tetrahydro-pyran-2-yloxy)-ethoxy]-benzoate | ClC1=C(OC2=C(C=C(C(=O)OC)C=C2OCCOC2OCCCC2)NS(=O)(=O)C2=NC=C(C=C2)C(C)C)C=C(C=C1)OC | C30H35ClN2O9S
